US05409956
Preparation of ethyl[2-(phenylsulphonylaminomethyl)indan-5-oxy]acetate:
1.77 g (5.00 mmol) of ethyl[2-(t-butoxycarbonylaminomethyl)-indan-5-oxy]acetate was dissolved in 6 ml of methylene chloride, to which was added 4 ml of trifluoroacetic acid under ice-cooling and stirred for 1 hour. The reaction mixture was diluted with 40 ml of methylene chloride. A solution of 40 ml water containing 8.37 g (60 mmol) of potassium carbonate was added thereto and stirred vigorously. 10 minutes after, 1.07 g (6.00 mmol) of phenylsulfonylchloride was added thereto, and stirred for further 1.5 hours. The organic phase was collected, dried and condensed, and the residue was purified by column gel chromatography (ethyl acetate:hexane=1:1) to obtain 1.68 g of a colorless oil. Yield: 88%

reactant | ethyl[2-(t-butoxycarbonylaminomethyl)-indan-5-oxy]acetate | 5.00 mmol, 1.77 g | C(C)OC(COC=1C=C2CC(CC2=CC1)CNC(=O)OC(C)(C)C)=O | C19H27NO5
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 60 mmol, 40 ml, 8.37 g | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | phenylsulfonylchloride | 6.00 mmol, 1.07 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | ethyl[2-(phenylsulphonylaminomethyl)indan-5-oxy]acetate | 1.68 g, Yield: 88% | C(C)OC(COC=1C=C2CC(CC2=CC1)CNS(=O)(=O)C1=CC=CC=C1)=O | C20H23NO5S
